US05753652
a) N-(3-Pyridylacetyl)-(L)-valine
3.4 g of N-(3-pyridylacetyl)-(L)-valine-tert-butyl ester are dissolved in 20 ml of trifluoroacetic acid/methylene chloride (1:1) and the solution is stirred at RT for 16 h. The reaction solution is fully concentrated by evaporation and the residue is digested with DIPE. The title compound is obtained in the form of a white amorphous solid. 1H-NMR (200 MHz, CD3OD): 8.9-8.6 (m, broad, 1H), 8.5 (m, 1H), 7.95 (m, 1H), 4.33 (m, 1H), 3.93 (s, 2H), 2.2 (m, 1H), 0.98 (2d, 6H).

reactant | N-(3-pyridylacetyl)-(L)-valine-tert-butyl ester | 3.4 g | C(C)(C)(C)OC([C@@H](NC(CC=1C=NC=CC1)=O)C(C)C)=O | C16H24N2O3
solvent | trifluoroacetic acid methylene chloride | 20 ml | FC(C(=O)O)(F)F.C(Cl)Cl
product | N-(3-Pyridylacetyl)-(L)-valine | N1=CC(=CC=C1)CC(=O)N[C@@H](C(C)C)C(=O)O | C12H16N2O3
